US05536725
This compound is prepared in a manner analogous to that of Example 1, using 3.5 grams (0.013 mole) of 4-(3-trifluoromethylphenoxy)cyclohexanone and 1.2 grams (0.014 mole) of cyanoguanidine in 2-(2-ethoxyethoxy)ethanol, yielding 2,4-diamino-6-(3-trifluoromethylphenylmethoxy)-5,6,7,8-tetrahydroquinazoline.

reactant | 4-(3-trifluoromethylphenoxy)cyclohexanone | 0.013 mole, 3.5 grams | FC(C=1C=C(OC2CCC(CC2)=O)C=CC1)(F)F | C13H13F3O2
reactant | cyanoguanidine | 0.014 mole, 1.2 grams | C(#N)NC(=N)N | C2H4N4
reactant | 2-(2-ethoxyethoxy)ethanol | C(C)OCCOCCO | C6H14O3
product | 2,4-diamino-6-(3-trifluoromethylphenylmethoxy)-5,6,7,8-tetrahydroquinazoline | NC1=NC=2CCC(CC2C(=N1)N)OCC1=CC(=CC=C1)C(F)(F)F | C16H17F3N4O
